US05112913
1,4-bis(4-hydroxyphenyl)-benzene;
bis(4-hydroxyphenyl)-phenylmethane; bis(4-hydroxyphenyl)-diphenylmethane;

reactant | bis(4-hydroxyphenyl)-phenylmethane | OC1=CC=C(C=C1)C(C1=CC=CC=C1)C1=CC=C(C=C1)O | C19H16O2
reactant | bis(4-hydroxyphenyl)-diphenylmethane | OC1=CC=C(C=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=C(C=C1)O | C25H20O2
product | 1,4-bis(4-hydroxyphenyl)-benzene | OC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C18H14O2
